US07495104B2
1-[4-(6,7-Dimethoxy-quinolin-4-yloxy)-phenyl]-3-(3,3-dimethyl-butyl)-urea hydrochloride
Methanol (20 ml) and chloroform (2 ml) were added to 1-[4-(6,7-dimethoxy-quinolin-4-yloxy)-phenyl]-3-(3,3-dimethyl-butyl)-urea to prepare a solution. The solution was acidified by the addition of hydrogen chloride-methanol, and the acidified solution was concentrated. Diethyl ether was added to the residue, and the mixture was filtrated to give the title compound (1.75 g, yield 91%).

reactant | Methanol | 20 ml | CO | CH4O
reactant | 1-[4-(6,7-dimethoxy-quinolin-4-yloxy)-phenyl]-3-(3,3-dimethyl-butyl)-urea | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NCCC(C)(C)C | C24H29N3O4
reactant | hydrogen chloride methanol | Cl.CO
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-(6,7-Dimethoxy-quinolin-4-yloxy)-phenyl]-3-(3,3-dimethyl-butyl)-urea hydrochloride | 1.75 g, yield 91% | Cl.COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NCCC(C)(C)C | InChI=1S/C24H29N3O4.ClH/c1-24(2,3)11-13-26-23(28)27-16-6-8-17(9-7-16)31-20-10-12-25-19-15-22(30-5)21(29-4)14-18(19)20;/h6-10,12,14-15H,11,13H2,1-5H3,(H2,26,27,28);1H
